US07129232B2
To a solution of 1,1′-(1,2-dioxo-1,2-ethanediyl)bis-1H-imidazole (761 mg) in N,N-dimethylformamide (8 ml) was added 1-methyl-N5-trityl-1H-pyrazole-4,5-diamine (709 mg) under ice-cooling, and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added a solution of tert-butyl 2-aminoethylcarbamate (1.28 g) in N,N-dimethylformamide (2 ml), and the mixture was stirred at room temperature for 27 hours. To the reaction mixture was added ethyl acetate (50 ml). After the precipitate was filtered off, the filtrate was washed successively with water, 5% aqueous citric acid solution and brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The crystalline residue was washed with a mixed solvent of diethyl ether and ethyl acetate and dried in vacuo to give tert-butyl {2-[(2-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-2-oxoacetyl)amino]ethyl}carbamate (823 mg) as a solid.

reactant | 1,1′-(1,2-dioxo-1,2-ethanediyl)bis-1H-imidazole | 761 mg | O=C(C(=O)N1C=NC=C1)N1C=NC=C1 | C8H6N4O2
reactant | 1-methyl-N5-trityl-1H-pyrazole-4,5-diamine | 709 mg | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N | C23H22N4
reactant | tert-butyl 2-aminoethylcarbamate | 1.28 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | tert-butyl {2-[(2-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-2-oxoacetyl)amino]ethyl}carbamate | 823 mg | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(C(=O)NCCNC(OC(C)(C)C)=O)=O | C32H36N6O4
